US06262069B1
CBz-D-phenylglycine-4-(1-methylpiperidin-4-yl)piperidinamide
To a solution of CBz-D-phenylglycine-4-[1-(Boc)piperidin-4-yl]piperidinamide (1.1 g, 2.5 mmol) in acetonitrile (40 ml) and aq. formaldehyde (10 ml) was added sodium cyanoborohydride (315 mg, 5 mmol) portionwise over 10 min. The reaction mixture was left to stir for 3 hours and then poured onto water (50 ml), containing conc ammonia solution (5 ml) and left to stir for 15 min. Extraction with ethyl acetate (100 ml), washing with brine and drying gave the title compound as a colourless oil (1.1 g, 97%).

reactant | CBz-D-phenylglycine 4-[1-(Boc)piperidin-4-yl]piperidinamide | 2.5 mmol, 1.1 g | C1=CC=C(C=C1)COC(=O)N[C@H](C2=CC=CC=C2)C(=O)O.C(=O)(OC(C)(C)C)N1CCC(CC1)C1CCN(CC1)C(=O)N
reactant | sodium cyanoborohydride | 5 mmol, 315 mg | C(#N)[BH3-].[Na+]
reactant | ammonia | 5 ml | N | H3N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | formaldehyde | 10 ml | C=O | CH2O
product | CBz-D-phenylglycine 4-(1-methylpiperidin-4-yl)piperidinamide | 1.1 g, 97% | C1=CC=C(C=C1)COC(=O)N[C@H](C2=CC=CC=C2)C(=O)O.CN1CCC(CC1)C1CCN(CC1)C(=O)N | InChI=1S/C16H15NO4.C12H23N3O/c18-15(19)14(13-9-5-2-6-10-13)17-16(20)21-11-12-7-3-1-4-8-12;1-14-6-2-10(3-7-14)11-4-8-15(9-5-11)12(13)16/h1-10,14H,11H2,(H,17,20)(H,18,19);10-11H,2-9H2,1H3,(H2,13,16)/t14-;/m1./s1
